data/oMe_Silver.jsonl
{"reaction_id": "NR-224_1-c1ccc(OC)cc1","level": "hard","name": "Pinner Reaction","reactants_smiles": ["C(c1ccc(OC)cc1)#N"],"products_smiles": ["C(c1ccc(OC)cc1)(=[NH2+])OCC"],"conditions": "HCl, EtOH","mechanism_step_nums": 7,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)#[NH+]","step_weight": 0,"rationale": "Protonation of the nitrile nitrogen by HCl increases the electrophilicity of the adjacent carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(=[NH])[OH+](CC)","step_weight": 0,"rationale": "Ethanol, activated by the acidic medium, attacks the electrophilic nitrilium carbon, forming a tetrahedral intermediate stabilized by protonation."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(=[NH2+])OCC","step_weight": 0,"rationale": "Proton transfer to the nitrogen generates a more stable cationic imidate species, facilitating subsequent nucleophilic addition steps."},{"step": 4,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(OC)cc1)(N)([NH2])OCC","step_weight": 0,"rationale": "A second nucleophilic addition occurs as ammonia-like nitrogen attacks the electrophilic carbon, driven by the high reactivity of the imidate intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(OC)cc1)(N)([NH2])[OH+]CC","step_weight": 0,"rationale": "Protonation of the hydroxyl group converts it into a better leaving group by increasing its positive charge, preparing for elimination."},{"step": 6,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(OC)cc1)(N)=[NH2+]","step_weight": 0,"rationale": "Loss of the protonated hydroxyl group as water occurs readily under acidic conditions, driven by the stability of the resulting iminium ion."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=C(N)C(c1ccc(OC)cc1)","step_weight": 0,"rationale": "Final proton transfer neutralizes the product, yielding the imino ester salt stabilized by resonance between C=N and the adjacent nitrogen."}],"description": "Under strongly acidic conditions, the nitrile nitrogen is protonated, increasing electrophilicity at the carbon. Ethanol attacks, forming an imidate intermediate. Subsequent proton transfers and addition-elimination steps stabilize intermediates and expel leaving groups, yielding the imino ester (Pinner salt) product."}
{"reaction_id": "NR-337_1-Cl_2-[N+](=O)[O-]_3-O[Si](C)(C)C(C)(C)C_4-c2cccs2_5-C(=O)OC","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(Cl)c([N+](=O)[O-])c(O[Si](C)(C)C(C)(C)C)c(c2cccs2)c1C(=O)OC","N#C[Cu]"],"products_smiles": ["c1(C#N)c(Cl)c([N+](=O)[O-])c(O[Si](C)(C)C(C)(C)C)c(c2cccs2)c1C(=O)OC"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(Cl)c([N+](=O)[O-])c(O[Si](C)(C)C(C)(C)C)c(c2cccs2)c1C(=O)OC","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(Cl)c([N+](=O)[O-])c(O[Si](C)(C)C(C)(C)C)c(c2cccs2)c1C(=O)OC","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
